US08217065B2
{5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-(5-fluoro-pyridin-2-yl)-amine
Dissolve 2-amino-5-fluoro-pyridine (68 mg, 0.606 mmol) in a biphasic solution of CHCl3 (15 mL) and saturated NaHCO3 (15 mL). Add thiophosgene (46 uL, 0.606 mmol) to the organic phase and stir the reaction vigorously for 1 hr. Add 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (146 mg, 0.455 mmol) and stir for 7 hr. Add additional 2-amino-5-fluoro-pyridine (68 mg, 0.606 mmol) and stir overnight. Filter the reaction and wash the collected solid with DCM. Concentrate the organic phase of the filtrate and combine with the solid. Add DMF (3 mL) and EDCI (174 mg, 0.910 mmol) and heat the reaction to 80° C. for 1 hr. Allow the reaction to cool to room temp. Dilute with EtOAc (75 mL) and extract with water (15 mL). Dry the organic phase over Na2SO4 and concentrate. Purify the concentrate by silica gel chromatography (3-6% MeOH/DCM) followed by reversed phase HPLC (20-60% ACN/H2O+5 mM NH4OH) to afford the title compound as a white solid: 1H NMR (400 MHz, DMSO-d6) ppm 7.62-7.68 (m, 1 H) 7.70 (s, 1 H) 7.72 (d, J=1.77 Hz, 1 H) 7.74-7.94 (m, 3 H) 8.01 (dd, J=9.22, 3.66 Hz, 1 H) 8.05 (tautomer, s, 1 H) 8.19 (tautomer, s, 1 H) 8.35 (d, J=3.03 Hz, 1 H) 11.37 (br. s., 1 H) 13.29 (s, 1 H); MS m/z=441.7 (M+1).

reactant | 2-amino-5-fluoro-pyridine | 0.606 mmol, 68 mg | NC1=NC=C(C=C1)F | C5H5FN2
reactant | thiophosgene | 0.606 mmol, 46 uL | C(=S)(Cl)Cl | CCl2S
reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.455 mmol, 146 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | 2-amino-5-fluoro-pyridine | 0.606 mmol, 68 mg | NC1=NC=C(C=C1)F | C5H5FN2
reactant | EDCI | 0.910 mmol, 174 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | {5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-(5-fluoro-pyridin-2-yl)-amine | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C2=NN=C(O2)NC2=NC=C(C=C2)F | C20H11Cl2FN6O
